US09260408B2
5′-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6-dihydro-4H-[3,3′]bipyridinyl-1-carboxylic acid tert-butyl ester
In analogy to the procedure described for the preparation of example 45, 6-(5-bromo-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one (prepared from 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) and 3,5-dibromo pyridine also with a procedure as used for the preparation of example 45) has been coupled to 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester to give the title compound as an amorphous colorless solid. MS: 420.5 (M+H+).

reactant | 6-(5-bromo-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C15H13BrN2O
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | 3,5-dibromo pyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC(=C1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
product | 5′-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6-dihydro-4H-[3,3′]bipyridinyl-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(CCC1)C=1C=NC=C(C1)C=1C=C2CCC(N(C2=CC1)C)=O | C25H29N3O3
